US04985444
A mixture of 3-(3-oxo-2,3-dihydropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine (2.91 g) and phosphorus oxychloride (10 ml) was heated under reflux for 1 hour. Phosphorus oxychloride was evaporated in vacuo. The residue was neutralized by saturated aqueous solution of sodium hydrogen carbonate and extracted with chloroform (30 ml×3). The combined extract was washed with a saturated aqueous solution of sodium chloride (20 ml) and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was triturated with ethanol, collected by filtration, washed with ethanol and dried to give crystals of 3-(3-chloropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine (2.42 g).

reactant | 3-(3-oxo-2,3-dihydropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine | 2.91 g | O=C1NN=C(C=C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C17H12N4O
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-(3-chloropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine | 2.42 g | ClC=1N=NC(=CC1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C17H11ClN4
